US07985755B2
4-(4-Chlorophenyl)cyclohexane carboxylic acid (0.35 g, 1.5 mmol) was reacted via Method E over 72 hours. The solid was poured into a water (40 mL) solution and extracted with ethyl acetate (EtOAc) (4×10 mL). The combined organic layers were washed with brine (40 mL) and dried over anhydrous Na2SO4. The organic layer was concentrated in vacuo to obtain [4-(4-chlorophenyl)cyclohexyl]methanol (0.210 g, 64% yield).

reactant | 4-(4-Chlorophenyl)cyclohexane carboxylic acid | 1.5 mmol, 0.35 g | ClC1=CC=C(C=C1)C1CCC(CC1)C(=O)O | C13H15ClO2
solvent | water | 40 mL | O | H2O
product | [4-(4-chlorophenyl)cyclohexyl]methanol | 0.210 g, 64% yield | ClC1=CC=C(C=C1)C1CCC(CC1)CO | C13H17ClO
